US04405357
A solution of 0.52 grams (0.005 mole) of 4,4-dimethyl-3-isoxazolidinone, 1.0 gram (0.005 mole) of (2-chloro-4-fluorophenyl)methyl bromide and 0.62 gram (0.005 mole) of potassium carbonate in 40 ml of dimethylformamide was stirred at ambient temperature for 18 hours. The dimethylformamide was removed under high vacuum with mild heat. The residue was extracted with methylene chloride. The extract was filtered and dried with sodium sulfate. The mixture was refiltered and the filtrate concentrated under reduced pressure to give an oil residue. The residue was slurried in warm hexane and a solid was removed by filtration. The filtrate was concentrated under reduced pressure to give 0.39 gram of 2-[(2-chloro-4-fluorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone as an oil.

reactant | 4,4-dimethyl-3-isoxazolidinone | 0.005 mole, 0.52 grams | CC1(C(NOC1)=O)C | C5H9NO2
reactant | (2-chloro-4-fluorophenyl)methyl bromide | 0.005 mole, 1.0 gram | ClC1=C(C=CC(=C1)F)CBr | C7H5BrClF
reactant | potassium carbonate | 0.005 mole, 0.62 gram | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 2-[(2-chloro-4-fluorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.39 gram | ClC1=C(C=CC(=C1)F)CN1OCC(C1=O)(C)C | C12H13ClFNO2
